US07309715B2
1-Acetyl-5-aminoindoline
The solution of 1-acetyl-5-nitroindoline (1.0 g, 4.85 mmol) in ethanol-THF (100 mL: 30 mL) was hydrogenated over 5% Pd/C (600 mg) at atmosphere pressure for 2 h, filtered through Celite and concentrated in vacuo to give a white solid which was recrystalllized from ethanol. White crystalline solid (580 mg, 68%) was obtained. Mp 185-186.5° C. (lit 184-185° C., [21]); 1H NMR (270 MHz, DMSO): δ 7.73 (1H, d, J=8.6 Hz, ArH), 6.45 (1H, s broad, w1/2=1.8 Hz, ArH), 6.33 (1H, dd, J=8.6, 1.8 Hz, ArH), 4.82 (2H, s, NH2), 3.97 (2H, t, J=8.4 Hz, CH2), 2.99 (2H, t, J=8.4 Hz, CH2), 2.07 (3H, s, CH3); APCI-MS 175 (M−H+).

reactant | 1-acetyl-5-nitroindoline | 4.85 mmol, 1.0 g | C(C)(=O)N1CCC2=CC(=CC=C12)[N+](=O)[O-] | C10H10N2O3
reactant | ethanol | C(C)O | C2H6O
solvent | ethanol THF | 100 mL | C(C)O.C1CCOC1
catalyst | Pd/C | 600 mg | [Pd] | Pd
product | 1-Acetyl-5-aminoindoline | 580 mg, 68% | C(C)(=O)N1CCC2=CC(=CC=C12)N | C10H12N2O
